US07700634B2
To a solution of 1-cyclohexylmethyl-3-(5-ethoxycarbonyl-4-methylthiazol-2-yl)-7-methoxy-1H-indole (680 mg, 1.65 mmol) in THF (20 ml) was added lithium aluminium hydride (125 mg, 3.30 mmol) at 0° C. The mixture was stirred at 0° C. for 1 h, then quenched with ice water and extracted with dichloromethane. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated. The residue was purified by flash chromatography eluting with 25-50% (v/v) ethyl acetate in heptane then 10% (v/v) methanol in dichloromethane to afford 1-cyclohexylmethyl-3-(5-hydroxymethyl-4-methylthiazol-2-yl)-7-methoxy-1H-indole (532 mg, 1.44 mmol). To a solution of 1-cyclohexylmethyl-3-(5-hydroxymethyl-4-methylthiazol-2-yl)-7-methoxy-1H-indole (74 mg, 0.20 mmol) and triethylamine (26 mg, 0.26 mmol) in dichloromethane (1.0 ml), was added methanesulfonyl chloride (28 mg, 0.24 mmol). The mixture was stirred at room temperature for 40 min. and partitioned between dichloromethane and 5% aqueous sodium hydrogen carbonate. The aqueous layer was extracted with dichloromethane, then combined organic layers were washed with brine, dried over sodium sulfate and concentrated to afford crude 1-cyclohexylmethyl-3-(5-methanesulfonyloxymethyl-4-methylthiazol-2-yl)-7-methoxy-1H-indole (65 mg, 0.15 mmol). A mixture of crude 1-cyclohexylmethyl-3-(5-methanesulfonyloxymethyl-4-methylthiazol-2-yl)-7-methoxy-1H-indole (64 mg, 0.14 mmol), potassium carbonate (29 mg, 0.21 mmol), sodium iodide (31 mg, 0.21 mmol) and diethylamine (21 mg, 0.28 mmol) in THF (1.5 ml) and acetonitrile (1.5 ml) was subjected to microwave irradiation for 5 min at 160° C. The resulting mixture was partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane and combined organic layers were washed with brine, dried over sodium sulfate and concentrated. The residue was purified by flash chromatography eluting with 50-100% (v/v) ethyl acetate in heptane to afford 1-cyclohexylmethyl-3-(5-diethylaminomethyl-4-methylthiazol-2-yl)-7-methoxy-1H-indole (27 mg, 0.064 mmol). Hydrochloride salt formation was achieved by the addition of hydrogen chloride (1M solution in diethyl ether; 1 ml) to a solution of the free base in diethyl ether (1 ml) and ethanol (2 ml). The solvent was removed in vacuo and the precipitate was dried to afford title compound as a 1:1 hydrochloride salt (26 mg, 0.056 mmol). 1H NMR (400 MHz, DMSO-d6) δ 0.95-1.25 (5H, m), 1.29 (6H, t, J 7.2), 1.40-1.52 (2H, m), 1.55-1.70 (3H, m), 1.72-1.84 (1H, m), 3.10-3.25 (4H, m), 3.93 (3H, s), 4.27 (2H, d, J 7.0), 4.56 (2H, d, J 5.0), 6.82 (1H, d, J 7.6), 7.14 (1H, t, J 7.6), 7.72 (1H, d, J 7.6), 8.00 (1H, s), 9.90 (1H, br s); EsIMS: m/z 426.3 [M+H]+, 353.1.

reactant | 1-cyclohexylmethyl-3-(5-methanesulfonyloxymethyl-4-methylthiazol-2-yl)-7-methoxy-1H-indole | 0.14 mmol, 64 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1SC(=C(N1)C)COS(=O)(=O)C | C22H28N2O4S2
reactant | potassium carbonate | 0.21 mmol, 29 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.21 mmol, 31 mg | [I-].[Na+]
reactant | diethylamine | 0.28 mmol, 21 mg | C(C)NCC | C4H11N
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | 1-cyclohexylmethyl-3-(5-diethylaminomethyl-4-methylthiazol-2-yl)-7-methoxy-1H-indole | 0.064 mmol, 27 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1SC(=C(N1)C)CN(CC)CC | C25H35N3OS
